US07601728B2
Methyl 6-{(3R)-3-[(tert-butoxycarbonyl)amino]piperidin-1-yl}-5-(2-chloro-5-fluorobenzyl)-1-methyl-2,4-dioxo-3-(2-oxo-2-phenylethyl)-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidine-7-carboxylate
A solution of methyl 6-{(3R)-3-[(tertbutoxycarbonyl)amino]piperidin-1-yl}-5-(2-chloro-5-fluorobenzyl)-1-methyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidine-7-carboxylate (50 mg), α-bromoacetophenone (27 mg) and potassium carbonate (25 mg) in N,N-dimethylformamide was stirred at 25° C. for 14 hours. Water was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and then filtered and the filtrate was concentrated under reduced pressure. The resulting residue was purified by a preparative thin-layer chromatography (hexane/ethyl acetate=2/1) to obtain the title compound (51 mg) as a white solid.

reactant | methyl 6-{(3R)-3-[(tertbutoxycarbonyl)amino]piperidin-1-yl}-5-(2-chloro-5-fluorobenzyl)-1-methyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidine-7-carboxylate | 50 mg | C(C)(C)(C)OC(=O)N[C@H]1CN(CCC1)C1=C(C=2N(C(NC(C2N1CC1=C(C=CC(=C1)F)Cl)=O)=O)C)C(=O)OC | C26H31ClFN5O6
reactant | α-bromoacetophenone | 27 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | potassium carbonate | 25 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | Methyl 6-{(3R)-3-[(tert-butoxycarbonyl)amino]piperidin-1-yl}-5-(2-chloro-5-fluorobenzyl)-1-methyl-2,4-dioxo-3-(2-oxo-2-phenylethyl)-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidine-7-carboxylate | 51 mg | C(C)(C)(C)OC(=O)N[C@H]1CN(CCC1)C1=C(C=2N(C(N(C(C2N1CC1=C(C=CC(=C1)F)Cl)=O)CC(C1=CC=CC=C1)=O)=O)C)C(=O)OC | C34H37ClFN5O7
